US08008307B2
Step b: [((1S,2S,4R)-4-azido-2-{[tert-butyl(dimethyl)silyl]oxy}cyclopentyl)methoxy](tert-butyl)dimethylsilane
To a solution of (1S,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentyl methanesulfonate (2.66 g, 0.00606 mol) in N,N-Dimethylformamide (20 mL, 0.2 mol) was added sodium azide (1.21 g, 0.0186 mol), and the mixture was heated at 55° C. for 3 hours. The reaction was cooled to 23° C., quenched by addition of water and extracted with Et2O (3×), washed with water, brine, dried (Na2SO4), filtered and concentrated. The residue was purified by flash chromatography (0 to 15% ethyl acetate/hexane) to obtain 2.13 g (91.1%).

reactant | (1S,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentyl methanesulfonate | 0.00606 mol, 2.66 g | CS(=O)(=O)O[C@@H]1C[C@@H]([C@@H](C1)CO[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C19H42O5SSi2
reactant | N,N-Dimethylformamide | 0.2 mol, 20 mL | CN(C=O)C | C3H7NO
reactant | sodium azide | 0.0186 mol, 1.21 g | [N-]=[N+]=[N-].[Na+]
product | [((1S,2S,4R)-4-azido-2-{[tert-butyl(dimethyl)silyl]oxy}cyclopentyl)methoxy](tert-butyl)dimethylsilane | N(=[N+]=[N-])[C@H]1C[C@@H]([C@@H](C1)CO[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C18H39N3O2Si2
